US05552420
To a solution of 5-phenoxythiocarbonyloxymethyl-2-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propyl]-1,2,4-triazole (130 mg, 0.79 mmol) in 20 ml of toluene was added AIBN (130 mg, 0.79 mmol) and tributyltin hydride (3.2 g, 11 mmol) and the mixture was stirred at 75° C. for 6.5 h. The solvent was concentrated in vacuo and the residue was purified by silica column chromatography (10 cm column, ethyl acetate/hexane, 1/1-5/1; methylene chloride/acetone, 4/1-0/1) to afford 142 mg (43%) of 5-methyl-2-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propyl]-1,2,4-triazole, m.p. 101°-103° C.

reactant | 5-phenoxythiocarbonyloxymethyl-2-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propyl]-1,2,4-triazole | 0.79 mmol, 130 mg | O(C1=CC=CC=C1)C(=S)OCC=1N=CN(N1)CCCOC1=C(C=C(C=C1C)C=1N=NN(N1)C)C | C23H25N7O3S
reactant | AIBN | 0.79 mmol, 130 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | tributyltin hydride | 11 mmol, 3.2 g | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methyl-2-[3-[4-(2-methyl-tetrazol-5-yl)-2,6-dimethylphenoxy]-propyl]-1,2,4-triazole | 142 mg, 43% | CC=1N=CN(N1)CCCOC1=C(C=C(C=C1C)C=1N=NN(N1)C)C | C16H21N7O
